US08202858B2
[3-Fluoro-4-(3-piperazin-1-yl-propoxy)-phenyl]-(3-methyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulen-9-yl)-methanone Dihydrochloride
A solution of 4-{3-[2-fluoro-4-(3-methyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulene-9-carbonyl)-phenoxy]-propyl}-piperazine-1-carboxylic acid tert-butyl ester from Example E49.1 (615 mg, 1.09 mmol) in methanol (2 ml) at 0° C. was treated with 4N HCl in dioxan (5 ml). The solution was allowed to warm to room temperature and stirred for 1 h. Solvents were removed in vacuo to give a white foam identified as the title compound (585 mg, 100%).

reactant | 4-{3-[2-fluoro-4-(3-methyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulene-9-carbonyl)-phenoxy]-propyl}-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)CCCOC1=C(C=C(C=C1)C(=O)N1C2=C(NC=3N(N=CC3C1)C)C=CC=C2)F | C30H37FN6O4
reactant | HCl | 4N | Cl | ClH
solvent | methanol | 2 ml | CO | CH4O
solvent | dioxan | 5 ml | O1CCOCC1 | C4H8O2
product | [3-Fluoro-4-(3-piperazin-1-yl-propoxy)-phenyl]-(3-methyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulen-9-yl)-methanone Dihydrochloride | 585 mg, 100% | Cl.Cl.FC=1C=C(C=CC1OCCCN1CCNCC1)C(=O)N1C2=C(NC=3N(N=CC3C1)C)C=CC=C2 | InChI=1S/C25H29FN6O2.2ClH/c1-30-24-19(16-28-30)17-32(22-6-3-2-5-21(22)29-24)25(33)18-7-8-23(20(26)15-18)34-14-4-11-31-12-9-27-10-13-31;;/h2-3,5-8,15-16,27,29H,4,9-14,17H2,1H3;2*1H
